US06884890B2
Example 40(c) was prepared in a similar manner to that of Example 40(a) except that in step (i) 2,4-dimethyl-3-amino-phenyl boronic acid (prepared as described below) was used in place of m-amino-phenyl boronic acid: 1H NMR (DMSO-d6) δ 8.62 (d, 1H, J=3.78 Hz), 8.32 (d, 1H, J=8.48 Hz), 7.99 (d, 1H, J=16.35 Hz), 7.83 (td, 1H, J=7.68 Hz, J=1.8 Hz), 7.80 (s, 1H), 7.69 (d, 1H, J=7.80 Hz), 7.64 (dd, 1H, J=8.47 Hz, J=1.27 Hz), 7.62 (d, 1H, J=16.36 Hz), 7.29 (m, 1H), 6.94 (s, 1H), 6.64 (s, 1H), 4.87 (bs, 2H), 2.12 (s, 3H), 2.10 (s, 3H). LCMS (ESI+) [M+H]/z Calc'd 369, found 369. Anal. Calc'd: C, 74.98; H, 5.47; N, 15.21. Found: C, 73.85; H, 5.56; N, 14.49. The starting material was prepared as follows: 2,4-Diemthylphenyl boronic acid was made in a similar manner as that of Example 24(a), step (vii), except 2,4-dimethyl bromobenzene was used as starting material. 1H NMR (CD3OD) δ 7.13 (d, 1H, J=7.43 Hz), 7.00 (s, 1H), 6.97 (d, 1H. J=7.49 Hz), 2.28 (s, 3H), 2.28 (s, 3H). LCMS (ESI+) [M+H]/z Calc'd 151, found 151. To fuming nitric acid (1 ml) cooled to −40° C. was added TFA (1 ml). The resulting mixture was allowed to warm slightly to −35° C. and 2,4-dimethyl phenyl boronic acid (150 mg, 1 mmol) was added in one portion. After 1 h, ice was added and the heterogenous mixture was filtered. The resulting solid was suspended in Et2O and extracted with 3N NaOH (aq) (1 ml) then water (2 ml). The aqueous phase was acidified with 3N HCl (aq) (1 ml) and back extracted with EtOAc (3×5 ml). The pooled organics were washed with brine, dried with Na2SO4 decanted and concentrated to give 2,4-dimethyl-5-nitro-phenyl boronic acid (93 mg, 47%). LCMS (ESI+) [M+H]/z Calc'd 196, found 196. 3-Amino-4,6-dimethylphenyl boronic acid was prepared in a similar as that described for Example 40(b), step (i). 1H NMR (CD3OD)δ 6.83 (s, 2H), 6.64 (s, 1H), 2.17 (s, 3H), 2.13 (s, 3H).

reactant | 2,4-dimethyl-3-amino-phenyl boronic acid | CC1=C(C=CC(=C1N)C)B(O)O | C8H12BNO2
reactant | boronic acid | B(O)O | BH3O2
reactant | 2,4-dimethyl bromobenzene | CC1=C(C=CC(=C1)C)Br | C8H9Br
reactant | nitric acid | 1 ml | [N+](=O)(O)[O-] | HNO3
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 2,4-dimethyl phenyl boronic acid | 1 mmol, 150 mg | CC1=C(C=CC(=C1)C)B(O)O | C8H11BO2
product | 2,4-dimethyl-5-nitro-phenyl boronic acid | 93 mg, 47% | CC1=C(C=C(C(=C1)C)[N+](=O)[O-])B(O)O | C8H10BNO4
